US08937071B2
To a solution of N-(4-((dimethylamino)methyl)-3-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide (5.8 g, 7.30 mmol) in DCM (50 mL) was added HCl (1,4-dioxane, 5 mL, 20.00 mmol) at rt. The solution was stirred at 20° C. for 30 min. The solution was concentrated in vacuo to give the crude product. The crude material was purified by preparative HPLC (MeCN/H2O as eluants, acidic condition) to yield a off white solid of N-(4-((dimethylamino)methyl)-3-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)acetamide, hydrochloride (1.5 g, 2.78 mmol, 38.1% yield). TLC (DCM/MeOH=5:1, Rf=0.3): 1H NMR (400 MHz, CD3OD) δ 8.21 (d, J=1.4 Hz, 1H), 8.04 (d, J=8.4 Hz, 1H), 7.75 (d, J=8.4 Hz, 1H), 7.36-7.53 (m, 5H), 4.50 (s, 2H), 4.20 (q, J=7.0 Hz, 2H), 3.87 (s, 2H), 2.95 (s, 6H), 1.50 (t, J=7.0 Hz, 3H); ES-LCMS m/z 492.2 (M+H).

reactant | N-(4-((dimethylamino)methyl)-3-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide | 7.30 mmol, 5.8 g | CN(C)CC1=C(C=C(C=C1)NC(CC1=C(C=C(C=C1)C=1C=NC(=C(C1)OCC)OCC1=CC=C(C=C1)OC)F)=O)C(F)(F)F | C33H33F4N3O4
reactant | HCl | 20.00 mmol, 5 mL | Cl | ClH
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | N-(4-((dimethylamino)methyl)-3-(trifluoromethyl)phenyl)-2-(4-(5-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)acetamide, hydrochloride | 2.78 mmol, 1.5 g, 38.1% yield | Cl.CN(C)CC1=C(C=C(C=C1)NC(CC1=C(C=C(C=C1)C1=CNC(C(=C1)OCC)=O)F)=O)C(F)(F)F | InChI=1S/C25H25F4N3O3.ClH/c1-4-35-22-10-18(13-30-24(22)34)15-5-6-16(21(26)9-15)11-23(33)31-19-8-7-17(14-32(2)3)20(12-19)25(27,28)29;/h5-10,12-13H,4,11,14H2,1-3H3,(H,30,34)(H,31,33);1H
